US07179823B1
A mixture of ethyl 3-[3-ethoxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-1H-pyrazole-4-yl]propionate (381 mg), 1 N aqueous sodium hydroxide solution (2 ml), tetrahydrofuran (4 ml), and ethanol (4 ml) was stirred at room temperature for four hours, diluted with 1 N hydrochloric acid (2 ml), and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained colorless crystals were collected by filtration, and 3-[3-ethoxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-1H-pyrazol-4-yl]propionic acid was obtained (327 mg, yield: 91%). This was recrystallized from ethanol-hexane. Melting point: 129–130° C.

reactant | ethyl 3-[3-ethoxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-1H-pyrazole-4-yl]propionate | 381 mg | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1 | C26H29N3O6
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
reactant | ethanol | 4 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1 N, 2 ml | Cl | ClH
product | 3-[3-ethoxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-1H-pyrazol-4-yl]propionic acid | yield: 91% | C(C)OC1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1 | C24H25N3O6
